US07838675B2
i) (2R,3R)-3-({6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)butan-2-ol
To a solution of (2R,3R)-butane-2,3-diol (250 mg) and 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of example 1 step (ii)) (427 mg) in anhydrous tetrahydrofuran (20 ml) at ambient temperature was added 60% sodium hydride (33.4 mg). After stirring for 15 minutes the reaction mixture was partitioned between aq. ammonium chloride solution and ethyl acetate. The organics collected, dried (MgSO4) and solvents removed under vacuo to give the subtitle compound as colourless gum. Yield: 525 mg.

reactant | (2R,3R)-butane-2,3-diol | 250 mg | C[C@H]([C@@H](C)O)O | C4H10O2
reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | sodium hydride | 33.4 mg | [H-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2R,3R)-3-({6-chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)butan-2-ol | ClC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)O[C@@H]([C@@H](C)O)C | C15H15ClF2N2O2S
